Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Keflex / Tetracyclines
 
Attending: ___
 
Chief Complaint:
known ectopic, abdominal pain

 
Major Surgical or Invasive Procedure:
laparoscopic salpingectomy

 
History of Present Illness:
___ G4P0030 with known left tubal ectopic, s/p ___ MTX dose on 
___ and thus far with appropriately dropping HCG,  presents 
with 3 days "gas pain" not relieved by BM.  Also had recent 
moderate bright red vaginal bleeding last week--none x ___ days. 
 Pain is overall much improved now s/p T#3 x1 in ED.

 
Past Medical History:
ObGyn Hx
denies abnl Pap/STI
irreg menses q20-40 days
getting clomid/ovidrel with intercourse
Early SAb x 3, no D&C

Med/Surg Hx
vit D deficiency

Meds
mtx, none other

ALL
AZITHROMYCIN  GI Intolerance  
KEFLEX CAPSULE (CEPHALOSPORINS)  Hives  
TETRACYCLINE (TETRACYCLINE ANALOGUES)  Dizziness  

 
Social History:
Soc: denies T/E/D, married

 
Physical Exam:
At admission
PE:
97.2 75 ___ 100% ra 
NAD, NARD, Ctab, RRR
Abd soft NT, mild distension, Nl BS
Ext NT NE
Bimanual very mild ttp diffusely throughout, no palp mass, no
lateralization, overall well tolerated, brown d/c on glove

At discharge:
VSS, AF
NAD, A&O x3
Pulm: no visible resp distress, speaking in full sentences
Abd: soft, approp tender, dressing c/d/i
ext: no c/c/e
 
Pertinent Results:
___ 09:45AM   WBC-6.9 RBC-3.50* HGB-11.5* HCT-32.2* MCV-92 
MCH-32.8* MCHC-35.6* RDW-13.0
___ 09:45AM   PLT COUNT-230
___ 09:45AM   ___ PTT-31.9 ___
___ 09:45AM   ___ 03:00AM   WBC-9.0 RBC-3.61* HGB-11.9* HCT-33.4* MCV-93 
MCH-33.1* MCHC-35.7* RDW-12.7
___ 03:00AM   NEUTS-77* BANDS-0 ___ MONOS-5 EOS-0 
BASOS-0 ___ MYELOS-0
___ 03:00AM   HYPOCHROM-NORMAL ANISOCYT-NORMAL POIKILOCY-1+ 
MACROCYT-NORMAL MICROCYT-NORMAL POLYCHROM-NORMAL OVALOCYT-1+
___ 03:00AM   PLT COUNT-UNABLE TO 
___ 11:35PM   GLUCOSE-116* UREA N-10 CREAT-0.7 SODIUM-136 
POTASSIUM-3.8 CHLORIDE-99 TOTAL CO2-26 ANION GAP-15
___ 11:35PM   estGFR-Using this
___ 11:35PM   HCG-417
___ 11:35PM URINE  HOURS-RANDOM
___ 11:35PM URINE  UCG-POSITIVE
___ 11:35PM   WBC-10.6 RBC-4.04* HGB-12.6 HCT-37.9 MCV-94 
MCH-31.2 MCHC-33.3 RDW-13.2
___ 11:35PM   NEUTS-86.3* LYMPHS-9.6* MONOS-3.4 EOS-0.1 
BASOS-0.5
___ 11:35PM   PLT COUNT-257
___ 11:35PM   ___ PTT-32.7 ___
___ 11:35PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 11:35PM URINE  RBC-6* WBC-18* BACTERIA-FEW YEAST-NONE 
EPI-2
___ 11:35PM URINE  MUCOUS-OCC

Imaging:
Complex free fluid in the cul-de-sac consistent with
hemoperitoneum. 2.2 cm left adnexal mass representing the 
ectopic
pregnancy. Findings are highly suspicious for ruptured ectopic
pregnancy. Normal uterus and ovaries.

 
Brief Hospital Course:
The patient is a ___, G4, P0-0-3-0, with a known left 
tubal ectopic, who had been treated with methotrexate as an 
outpatient, with an appropriately dropping
hCG but presented to the emergency department with abdominal 
pain and bright red vaginal bleeding.  Exam demonstrated a very 
tender abdomen and imaging demonstrated 2.2 cm left adnexal mass 
with findings concerning for ruptured ectopic pregnancy given 
complex free fluid in cul-de-sac. Recommendation was made to 
proceed with surgical management, and the patient and her 
partner agreed.

The patient tolerated the procedure well. Please refer to the 
operative report in full details. She was able to ambulate after 
the procedure, tolerate a normal diet, and void spontaneously.

She was discharged on POD#0 in good condition with scheduled 
follow-up.

 
Medications on Admission:
MTX
 
Discharge Medications:
1. Hydrocodone-Acetaminophen (5mg-500mg) ___ TAB PO Q4H:PRN pain 

do not drive, do not take more than 4000mg acetaminophen in 24 
hrs 
RX *hydrocodone-acetaminophen 5 mg-325 mg 1 tablet(s) by mouth 
every 4 hours Disp #*30 Tablet Refills:*0
2. Ibuprofen 600 mg PO Q6H:PRN Pain 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every 6 hours Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ectopic pregnancy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You were admitted for treatment of an ectopic pregnancy. General 
instructions:  
* Take your medications as prescribed.  
* Do not drive while taking narcotics. 
* Take a stool softener such as colace while taking narcotics to 
prevent constipation 
* Do not combine narcotic and sedative medications or alcohol  
* Do not take more than 4000mg acetaminophen (APAP) in 24 hrs  
* No strenuous activity until your post-op appointment  
* Nothing in the vagina (no tampons, no douching, no sex) for 2 
weeks
* No heavy lifting of objects >10lbs for 2 weeks.    
* You may eat a regular diet  

Incision care:  
* You may shower and allow soapy water to run over incision; no 
scrubbing of incision. No bath tubs for 6 weeks.  
* If you have steri-strips, leave them on. They will fall off on 
their own or be removed during your followup visit.  
 
 

To reach medical records to get the records from this 
hospitalization sent to your doctor at home, call ___. 
 
 
Followup Instructions:
___